### PR TITLE
feat(Algebra/Group/WithOne): isFooCancel when source is

### PR DESCRIPTION
**Pull request by pechersky**
requires that source has no idempotent elements

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/WithOne/Basic.lean [hunk 1]
```diff
@@ -152,4 +152,41 @@ theorem _root_.MulEquiv.withOneCongr_trans (e₁ : α ≃* β) (e₂ : β ≃* 
...
+lemma isLeftCancelMul_of_no_right_identities [IsLeftCancelMul α] (h : ∀ a b : α, a * b ≠ a) :
+    IsLeftCancelMul (WithOne α) where
+  mul_left_cancel x y z h' := by
+    induction x
+    · simp_all
+    induction y <;> induction z <;> rename_i y z
+    · simp
+    · simp [← WithOne.coe_mul, (h y z).symm] at h'
+    · simp [← WithOne.coe_mul, (h y z)] at h'
+    · simp_all [← WithOne.coe_mul]
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/WithOne/Basic.lean:169]:
```suggestion
  mul_left_cancel x y z := by
    induction x <;> induction y <;> induction z <;>
      simp [← coe_mul, h, fun a b ↦ (h a b).symm]
```

File: Mathlib/Algebra/Group/WithOne/Basic.lean [hunk 2]
```diff
@@ -152,4 +152,41 @@ theorem _root_.MulEquiv.withOneCongr_trans (e₁ : α ≃* β) (e₂ : β ≃* 
...
+lemma isRightCancelMul_of_no_left_identities [IsRightCancelMul α] (h : ∀ a b : α, a * b ≠ b) :
+    IsRightCancelMul (WithOne α) where
+  mul_right_cancel x y z h' := by
+    induction x
+    · simp_all
+    induction y <;> induction z <;> rename_i y z
+    · simp
+    · simp [← WithOne.coe_mul, (h z y).symm] at h'
+    · simp [← WithOne.coe_mul, (h z y)] at h'
+    · simp_all [← WithOne.coe_mul]
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/WithOne/Basic.lean:181]:
```suggestion
  mul_right_cancel x y z := by
    induction x <;> induction y <;> induction z <;>
      simp [← coe_mul, h, fun a b ↦ (h a b).symm]
```

File: Mathlib/Algebra/Group/WithOne/Basic.lean [hunk 3]
```diff
@@ -152,4 +152,41 @@ theorem _root_.MulEquiv.withOneCongr_trans (e₁ : α ≃* β) (e₂ : β ≃* 
 
 end Map
 
+section Cancel
+
+variable [Mul α]
+
+@[to_additive]
+lemma isLeftCancelMul_of_no_right_identities [IsLeftCancelMul α] (h : ∀ a b : α, a * b ≠ a) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Group/WithOne/Basic.lean:160]: I think a better name could be `isLeftCancelMul_of_forall_mul_ne_left` and the other one could be `_right`

Also, you can turn these into iffs (not sure how useful these would be, but why not I guess):
```lean
-- note that you need to import `Mathlib.Algebra.Group.InjSurj`

@[to_additive]
lemma isLeftCancelMul_iff :
    IsLeftCancelMul (WithOne α) ↔ IsLeftCancelMul α ∧ ∀ a b : α, a * b ≠ a := by
  refine ⟨fun _ ↦ ⟨?_, fun a b hab ↦ ?_⟩, fun ⟨_, h⟩ ↦ isLeftCancelMul_of_no_right_identities h⟩
  · exact coe_injective.isLeftCancelMul _ coe_mul
  · rw [← coe_inj, coe_mul] at hab
    nth_rw 2 [← mul_one (a : WithOne α)] at hab
    exact coe_ne_one (mul_left_cancel hab)

@[to_additive]
lemma isRightCancelMul_iff :
    IsRightCancelMul (WithOne α) ↔ IsRightCancelMul α ∧ ∀ a b : α, a * b ≠ b := by
  refine ⟨fun _ ↦ ⟨?_, fun a b hab ↦ ?_⟩, fun ⟨_, h⟩ ↦ isRightCancelMul_of_no_left_identities h⟩
  · exact coe_injective.isRightCancelMul _ coe_mul
  · rw [← coe_inj, coe_mul] at hab
    nth_rw 2 [← one_mul (b : WithOne α)] at hab
    exact coe_ne_one (mul_right_cancel hab)
```

**Review by themathqueen — COMMENTED** [review]
The description says "requires that source has no idempotent elements", but your lemmas are different. I guess you meant this for semigroups? Maybe add the semigroup idempotent versions?
